US04820712
N-(tert.-butyloxycarbonyl)-L-phenylalanine methyl ester (4d)
This compound was prepared in 97% yield from the hydrochloride of L-phenylalanine methyl ester (32.4 g, 0.15 mol) by treatment with di-tert.-butyl pyrocarbonate following the procedure that has been described earlier1,2. TLC Rf 0.85 (eluent MeOH/CHCl3, 3/97). 1H NMR (CDCl3) δ 1.40 (s, 9H, t-Bu), 3.04 and 3.11 (d, AB part of ABX spectrum, 2H, CHCH2), 3.70 (s, 3H, CO2CH3), 4.36-4.73 (m, 1H, CHCO2CH3), 4.75-5.10 (m, 1H, NH), 7.04-7.34 (m, 5H, Ph).

reactant | hydrochloride | Cl | ClH
reactant | L-phenylalanine methyl ester | 0.15 mol, 32.4 g | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | di-tert.-butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(tert.-butyloxycarbonyl)-L-phenylalanine methyl ester | 97% yield | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C15H21NO4
